US03975443
A solution of p-toluoyl chloride (1 g.) 1-aminomethylcyclohexyl dimethylamine (1 g.) and triethylamine (0.65 g.) in benzene (60 ml.) was heated under reflux for 1.5 hrs. The excess benzene was evaporated under reduced pressure, the residue dissolved in water and extracted with chloroform. The extracts were dried (anhyd. sodium sulphate) and the chloroform evaporated under reduced pressure to give an oil which solidified on cooling. Excess ethereal hydrochloric acid was added to an ethereal solution of the solid and the excess ether removed under reduced pressure. The solid residue was crystallised from isopropanol/petroleum ether (80-100) to give 4-methylbenzamido methyl cyclohexyl dimethylamine hydrochloride m.p. 199°-201° (0.7 g.).

reactant | p-toluoyl chloride | 1 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | 1-aminomethylcyclohexyl dimethylamine | 1 g | NCC1(CCCCC1)N(C)C | C9H20N2
reactant | triethylamine | 0.65 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
reactant | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 4-methylbenzamido methyl cyclohexyl dimethylamine hydrochloride | 0.7 g | Cl.CC1CCC(CC1)N(CCNC(C1=CC=CC=C1)=O)C | InChI=1S/C17H26N2O.ClH/c1-14-8-10-16(11-9-14)19(2)13-12-18-17(20)15-6-4-3-5-7-15;/h3-7,14,16H,8-13H2,1-2H3,(H,18,20);1H
